US04783467
4-(4-Amino-3-formyl-5-methylphenyl)-1,2,4-triazole
A stirred mixture of 4-(4-amino-3-iodo-5-methylphenyl)-1,2,4-triazole (3.0 g) and tetrakis (triphenylphosphine) palladium (0) (1.0 g) in THF (300 cm3) was deoxygenated with a stream of nitrogen for 0.5 hours. The mixture was then placed under carbon monoxide (ca 2 atmospheres pressure), warmed to 50°, and a solution of tri-n-butyltin hydride (3.2 g) in THF (200 cm3) was added dropwise over 4 hours. After a further 0.5 hours, the mixture was poured onto an aqueous solution of potassium fluoride (10 g) in water (200 cm3) and the mixture was extracted with dichloromethane (5×200 cm3). The combined and dried (MgSO4) extracts were evaporated in vacuo and the residue was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]), eluting with dichloromethane:methanol, 9:1. Combination and evaporation of the appropriate fractions gave a solid which was recrystallised from ethyl acetate-methanol to afford the title compound, m.p. 250°-252° (1.87 g), characterised spectroscopically to be identical to the product of Preparation 30.

reactant | 4-(4-amino-3-iodo-5-methylphenyl)-1,2,4-triazole | 3.0 g | NC1=C(C=C(C=C1C)N1C=NN=C1)I | C9H9IN4
reactant | THF | 300 cm3 | C1CCOC1 | C4H8O
catalyst | tetrakis (triphenylphosphine) palladium (0) | 1.0 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(4-Amino-3-formyl-5-methylphenyl)-1,2,4-triazole | NC1=C(C=C(C=C1C)N1C=NN=C1)C=O | C10H10N4O
